US04800201
(i) Preparation of intermediate: 5-methyl-6-[1-(2,2,2-trichloroethoxycarbonyl)-3-methoxycarbonyl-1,4-dihydro-4-pyridinyl]-2H-1,4-thiazin-3(4H)-one
A mixture of methylnicotinate (2.74 g), 2,2,2-trichloroethylchloroformate (3.44 ml) and 5-methyl-2H-1,4-thiazin-3(4H)-one (1.29 g) was treated in the same manner as described in Example 2 (i) to give the titled compound (2.1 g, yield 48%) as pale yellow crystals. Ethyl acetate-n-hexane (=1:1) was used as a developing eluant.

reactant | methylnicotinate | 2.74 g | COC(C1=CN=CC=C1)=O | C7H7NO2
reactant | 2,2,2-trichloroethylchloroformate | 3.44 ml | ClC(COC(=O)Cl)(Cl)Cl | C3H2Cl4O2
reactant | 5-methyl-2H-1,4-thiazin-3(4H)-one | 1.29 g | CC=1NC(CSC1)=O | C5H7NOS
product | 5-methyl-6-[1-(2,2,2-trichloroethoxycarbonyl)-3-methoxycarbonyl-1,4-dihydro-4-pyridinyl]-2H-1,4-thiazin-3(4H)-one | 2.1 g, yield 48% | CC=1NC(CSC1C1C(=CN(C=C1)C(=O)OCC(Cl)(Cl)Cl)C(=O)OC)=O | C15H15Cl3N2O5S
